US05102890
Pyridine (24 cc) followed, in the course of 30 minutes, by propionyl chloride (5.5 g) are added successively to a solution of 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone (3.2 g) in methylene chloride (160 cc), while the temperature is maintained in the region of 25° C. The mixture is stirred for 3 hours at this temperature and then treated with water (100 cc). The organic phase is separated after settling has occurred, washed with water, dried and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is crystallized in isopropyl ether and then recrystallized in a mixture of isopropyl ether and ethyl acetate (25:75 by volume). 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl propionate (1 g), m.p. 160° C., is thereby obtained.

reactant | Pyridine | 24 cc | N1=CC=CC=C1 | C5H5N
reactant | propionyl chloride | 5.5 g | C(CC)(=O)Cl | C3H5ClO
reactant | 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone | 3.2 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1O)=O | C16H10ClN3O2
reactant | water | 100 cc | O | H2O
solvent | methylene chloride | 160 cc | C(Cl)Cl | CH2Cl2
product | 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl propionate | 1 g | C(CC)(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C19H14ClN3O3
